US06562807B2
Step 3: (RS)-3-{4-[1-(4-tert-Butylphenyl)-3-(4-trifluoromethoxyphenyl)ureidomethyl]benzoyl-amino}-2-hydroxypropionic Acid Ethyl Ester
To a solution of [1-(4-tert-butylphenyl)-3-(4-trifluoromethoxyphenyl)ureidomethyl]benzoic acid (1.0 g, 2.06 mmol) in DMF (1 mL) and DCM (10 mL) was added 1-hydroxy-7-azabenzo-triazole (0.33 g, 2.47 mmol). After stirring for 1 hour at room temperature, EDAC (0.47 g, 2.47 mmol), (RS)-isoserine ethyl ester hydrochloride (0.52 g, 3.09 mmol) and diisopropylethylamine (1.1 mL, 6.18 mmol) were added, successively. After stirring for 17 hours at ambient temperature the reaction mixture was partitioned between water, brine and ethyl acetate. The aqueous phase was further extracted with ethyl acetate. The combined organic phases were washed with water and brine. After drying (magnesium sulphate) and filtration, the organic phase was evaporated in vacuo. The residue was purified by column chromatography on silica gel eluting with a mixture of toluene and ethyl acetate (6:4). This afforded 1.2 g (97%) of (RS)-3-{4-[1-(4-tert-butylphenyl)-3-(4-trifluoromethoxyphenyl)ureidomethyl]-benzoylamino}-2-hydroxypropionic acid ethyl ester as an oil.

reactant | [1-(4-tert-butylphenyl)-3-(4-trifluoromethoxyphenyl)ureidomethyl]benzoic acid | 2.06 mmol, 1.0 g | C(C)(C)(C)C1=CC=C(C=C1)C(NC(=O)NC1=CC=C(C=C1)OC(F)(F)F)C1=C(C(=O)O)C=CC=C1 | C26H25F3N2O4
reactant | 1-hydroxy-7-azabenzo-triazole | 2.47 mmol, 0.33 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | EDAC | 2.47 mmol, 0.47 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | (RS)-isoserine ethyl ester hydrochloride | 3.09 mmol, 0.52 g | Cl.C(C)OC(C(CN)O)=O
reactant | diisopropylethylamine | 6.18 mmol, 1.1 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (RS)-3-{4-[1-(4-tert-Butylphenyl)-3-(4-trifluoromethoxyphenyl)ureidomethyl]benzoyl-amino}-2-hydroxypropionic Acid Ethyl Ester | C(C)OC(C(CNC(C1=CC=C(C=C1)C(C1=CC=C(C=C1)C(C)(C)C)NC(=O)NC1=CC=C(C=C1)OC(F)(F)F)=O)O)=O | C31H34F3N3O6
